US07759518B2
Step C: N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclopropane sulfonamide
According to the general procedure A, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine was reacted with cyclopropanesulfonyl chloride to obtain the desired product. (500 MHz, CDCl3): δ=7.38-7.37 (d, 1H), 7.35-7.34 (m, 1H), 7.27-7.26 (m, 1H), 7.20-7.0 (q, 1H), 6.68 (s, 1H, br), 6.15-6.12 (q, 1H), 5.65 (s, 1H, br), 3.25-3.20 (m, 1H), 2.4-2.3 (m, 2H), 2.0-1.8 (m, 2H); m/z=467 [M−1]−.

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | cyclopropanesulfonyl chloride | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclopropane sulfonamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C1CC1)NC1=C(C=C(C=C1)I)F | C15H12F3IN2O2S
